data/oMe_Silver.jsonl
{"reaction_id": "NR-137_1-C_2-C_3-C(F)(F)F_4-C(F)(F)F","name": "Maitland-Japp Reaction","level": "medium","reactants_smiles": ["C(C)C(=O)C(C)","O=CC(C(F)(F)F)"],"products_smiles": ["C1(C(F)(F)F)OC(C(F)(F)F)C(C)C(=O)C1(C)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C)C(=O)C(=C(C(F)(F)F))(C)","rationale": "Acid catalysis increases carbonyl electrophilicity, enabling enol or enolate attack on the aldehyde to form the conjugated α,β-unsaturated system stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(F)(F)F)=C(C)C(=O)C(C)C(O)(C(F)(F)F)","rationale": "The activated alkene undergoes nucleophilic addition from a hydroxyl group, favored by conjugation breaking and formation of a stabilized carbocation intermediate under acidic conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)=C(C)C(=[OH+])C(C)C(O)(C(F)(F)F)","rationale": "Protonation of the carbonyl oxygen increases electrophilicity, preparing the intermediate for subsequent intramolecular nucleophilic attack."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(F)(F)F)C(C)=C(O)C(C)C(C(F)(F)F)[OH+]1","rationale": "Intramolecular nucleophilic addition is favored entropically and electronically, as the nearby hydroxyl oxygen attacks the protonated carbonyl to form a cyclic oxonium ion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(F)(F)F)C(C)=C(O)C(C)C(C(F)(F)F)O1","rationale": "Deprotonation of the oxonium ion restores neutrality, stabilizing the newly formed heterocyclic ring."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(F)(F)F)OC(C(F)(F)F)C(C)C(=O)C1(C)","rationale": "Proton transfer rearranges the oxygen protonation state, yielding the thermodynamically stable cyclic ether with a carbonyl group."}],"description": "Under acidic conditions, the carbonyl compound and aldehyde undergo condensation to form an α,β-unsaturated intermediate, which then participates in intramolecular nucleophilic addition and cyclization. Proton transfers facilitate ring closure and rearrangement to yield the stable cyclic product."}
{"reaction_id": "NR-128_1-c1ccccc1","name": "Kucherov Reaction","level": "medium","reactants_smiles": ["c1ccccc1C#C"],"products_smiles": ["c1ccccc1C(=O)C"],"conditions": "O, [H+]","mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "c1ccccc1[C+]=C","rationale": "Protonation of the alkyne generates a more electrophilic vinyl cation, stabilized by adjacent substituents and resonance, facilitating subsequent nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1C(=C)[OH2+]","rationale": "Water, abundant under acidic conditions, attacks the electrophilic carbocation center, forming a protonated enol intermediate due to oxygen’s nucleophilicity."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1C(O)=C","rationale": "Deprotonation of the oxonium species restores neutrality, yielding the enol form, which is less stable than the keto tautomer."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1C(=[OH+])C","rationale": "Protonation at the enol oxygen increases the electrophilicity of the adjacent carbon, priming the system for tautomerization to the keto form."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1C(=O)C","rationale": "Deprotonation of the protonated carbonyl yields the thermodynamically favored ketone, driven by strong C=O bond formation and resonance stabilization."}],"description": "In the acid-catalyzed Kucherov reaction, an alkyne undergoes electrophilic hydration to yield a ketone via enol intermediates. Protonation activates the triple bond toward nucleophilic attack by water, followed by tautomerization driven by the thermodynamic stability of the carbonyl group."}
